US07368578B2
A mixture of (4-hydroxy-3-methoxyphenyl)acetic acid (15.00 g), conc. sulfuric acid (5 mL) and anhydrous ethanol (100 mL) was heated under reflux for 17 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-hexane (1:9 to 7:3, v/v) to give ethyl (4-hydroxy-3-methoxyphenyl)acetate as a colorless oil (14.55 g, yield 90%).

reactant | (4-hydroxy-3-methoxyphenyl)acetic acid | 15.00 g | OC1=C(C=C(C=C1)CC(=O)O)OC | C9H10O4
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl (4-hydroxy-3-methoxyphenyl)acetate | 14.55 g, yield 90% | OC1=C(C=C(C=C1)CC(=O)OCC)OC | C11H14O4
